US06686356B2
Step 5: Preparation of ethyl 1-methyl-9-(morpholin-4-ylmethyl)-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate
Diethyl 2-{[4-methyl-6-(morpholin-4-ylmethyl)-3-oxo-3,4-dihydroquinoxalin-1(2H)-yl]methylene}malonate (915 g, 2.20 mol) is added to Eaton's reagent (4.05 kg, 7.7 wt % phosphorus pentoxide dimer in methanesulfonic acid). The resulting dark red mixture is heated to 90° C. After 2 h, the reaction is cooled to less than 30° C. and poured into 9 kg of ice. A solution of 50% NaOH (3.9 kg) in water (3.8 liter) is added while maintaining less than 35° C. until the pH is 10. Methylene chloride (4 liter) is added and the phases separated. The aqueous is washed with methylene chloride (3×4 liter) and the combined organics are concentrated in vacuo to 4.5 liter total volume. Acetonitrile (4.5 liter) is added and the mixture concentrated to 4.5 liter total volume. Acetonitrile (1.8 liter) is added and the mixture concentrated to 4.5 liter total volume. The resultant slurry is cooled to 0° C. and the precipitate collected by filtration, washed with 2×1 liter of 0° C. acetonitrile and dried in a vacuum oven at 50° C. overnight to give a white solid (756 g). Physical characteristics: 1H NMR (400 MHz, DMSO-d6) δ1.27, 2.38, 3.36, 3.59, 4.21, 5.08, 7.33, 7.73, 8.48; 13C NMR (DMSO-d6) δ172.2. 164.2, 161.6, 146.8, 135.4, 131.0, 127.3, 126.4, 119.2, 117.3, 111.3, 66.2, 61.9. 59.9, 53.1, 28.6, 14.3.

reactant | Diethyl 2-{[4-methyl-6-(morpholin-4-ylmethyl)-3-oxo-3,4-dihydroquinoxalin-1(2H)-yl]methylene}malonate | 2.20 mol, 915 g | CN1C(CN(C2=CC=C(C=C12)CN1CCOCC1)C=C(C(=O)OCC)C(=O)OCC)=O | C22H29N3O6
reactant | Eaton's reagent | 4.05 kg | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
reactant | NaOH | 3.9 kg | [OH-].[Na+]
reactant | Methylene chloride | 4 liter | C(Cl)Cl | CH2Cl2
solvent | water | 3.8 liter | O | H2O
product | ethyl 1-methyl-9-(morpholin-4-ylmethyl)-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate | 756 g | CN1C(CN2C=3C(=CC(=CC13)CN1CCOCC1)C(C(=C2)C(=O)OCC)=O)=O | C20H23N3O5
